US07504404B2
5-{5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-thiophene-2-sulfonic acid amide
The title compound was prepared from 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.2) (188 mg, 0.5 mmol) and N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine (example B.2) (166 mg, 0.75 mmol) according to general procedure II. Obtained after purification by flash chromatography (ethyl acetate/heptane) and crystallization (dichloromethane) as an off-white solid (130 mg, 46%). MS (ISN) 558.0 [(M−H)−]; mp 276° C.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.5 mmol, 188 mg | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | N-hydroxy-5-sulfamoyl-thiophene-2-carboxamidine | 0.75 mmol, 166 mg | ONC(=N)C=1SC(=CC1)S(N)(=O)=O | C5H7N3O3S2
product | 5-{5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-yl]-[1,2,4]oxadiazol-3-yl}-thiophene-2-sulfonic acid amide | FC(C1=CC(=NC=2N1N=CC2C2=NC(=NO2)C2=CC=C(S2)S(=O)(=O)N)C2=CC=C(C=C2)C(F)(F)F)(F)F | C20H10F6N6O3S2
